US06734179B2
0.90 g (0.185 mMol) 4-[2-(4-fluoro-benzoylamino)-4-methoxy-benzothiazol-7-yl]-piperidine-1-carboxylic acid tert-butyl ester were dissolved in 3 ml 2.5 M HCl/MeOH and heated to reflux for 1.5 h. The reaction mixture was concentrated in vacuo and taken up in 4 ml isopropanol. The suspension formed was filtered and the material on the filter was washed with diethyl ether and dried in vacuo. One obtained 55 mg (70%) 4-fluoro-N-[4-methoxy-7-piperidine-4-yl-benzothiazol-2-yl]-benzamide hydrochloride (1:1) as a white solid. F.p.: 310-312° C.

reactant | 4-[2-(4-fluoro-benzoylamino)-4-methoxy-benzothiazol-7-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.185 mMol, 0.90 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC | C25H28FN3O4S
reactant | HCl MeOH | 2.5 M, 3 ml | Cl.CO
product | 4-fluoro-N-[4-methoxy-7-piperidine-4-yl-benzothiazol-2-yl]-benzamide hydrochloride | 55 mg, 70% | Cl.FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCNCC3)OC)C=C1 | InChI=1S/C20H20FN3O2S.ClH/c1-26-16-7-6-15(12-8-10-22-11-9-12)18-17(16)23-20(27-18)24-19(25)13-2-4-14(21)5-3-13;/h2-7,12,22H,8-11H2,1H3,(H,23,24,25);1H
